US08044062B2
(E)-Ethyl 3-(2-amino-4-(ethylamino)-6-methylpyrimidin-5-yl)acrylate (4.50 g, 18.0 mmol) was added to DBU (10.95 g, 4.0 equiv.) and the mixture was heated to 165° C. and stirred for 24 h. After that, the mixture was cooled to 70° C. followed by the addition of H2O (20 mL) to precipitate crystal and stirred for 1 h at room temperature. The crystal was collected and washed with H2O and acetone and dried under vacuum to afford 2.70 g (73.5% yield of 2-amino-8-ethyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one as a light yellowish brown solid. LC/MS: Calculated for C10H12N4O (204.2). Found: 205.31 (M+1); HPLC analytical purity: 98.5%. 1H NMR (400 MHz, DMSO-d6): δ 7.9 (d, 1H), 7.20 (bs, 2H), 6.20 (m, 1H), 4.20 (q, 2H), 2.50 (s, 3H), 1.20 (t, 3H); MS (EI) for C10H12N4O: 205.11 (MH+).

reactant | (E)-Ethyl 3-(2-amino-4-(ethylamino)-6-methylpyrimidin-5-yl)acrylate | 18.0 mmol, 4.50 g | NC1=NC(=C(C(=N1)NCC)/C=C/C(=O)OCC)C | C12H18N4O2
reactant | DBU | 10.95 g, 4.0 equiv. | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | H2O | 20 mL | O | H2O
product | 2-amino-8-ethyl-4-methylpyrido[2,3-d]pyrimidin-7(8H)-one | 73.5% yield | NC=1N=C(C2=C(N1)N(C(C=C2)=O)CC)C | C10H12N4O
